US05489593
1-[2-(1-Methylethylamino)-3-pyrazinyl]piperazine (II)
A solution of 2-chloro-3-(1-methylethylamino)pyrazine (PREPARATION 24, 1.6 g) and piperazine (4.3 g) in xylene (10 ml) is refluxed for 26 hr. The mixture is cooled to 0° and diluted with concentrated hydrochloric acid (8 ml). The xylene is decanted and ether is added and also decanted from the salts. The salts are diluted with excess aqueous sodium hydroxide (5%) and dichloromethane. The phases are separated. The aqueous phase is extracted three more times with dichloromethane. The combined organic extracts are dried over sodium sulfate and concentrated to give a liquid mixture which is flash chromatographed on silica gel eluting with methanol/chloroform (5/95). The appropriate fractions are pooled and concentrated to give the title compound, NMR (CDCl3) 1.27, 1.83, 3.04, 4.12, 4.78, 7.49 and 7.72 δ.

reactant | 2-chloro-3-(1-methylethylamino)pyrazine | 1.6 g | ClC1=NC=CN=C1NC(C)C | C7H10ClN3
reactant | piperazine | 4.3 g | N1CCNCC1 | C4H10N2
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | hydrochloric acid | 8 ml | Cl | ClH
product | 1-[2-(1-Methylethylamino)-3-pyrazinyl]piperazine | CC(C)NC1=NC=CN=C1N1CCNCC1 | C11H19N5
